US07932254B2
2,2-Dimethyl-6-[7-(1-methyl-cyclohexanecarbonyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-4H-benzo[1,4]oxazin-3-one.
Substituting (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone for 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one. MP=>300 C., (M+H)+=419. 7-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-4H-benzo[1,4]thiazin-3-one. Substituting 7-bromo-4H-benzo[1,4]thiazin-3-one for 6-bromo-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one. MP=>300 C., (M+H)+=367.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | 7-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-4H-benzo[1,4]thiazin-3-one | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC1=C(NC(CS1)=O)C=C2)(C)C | C19H18N4O2S
reactant | 6-bromo-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | BrC=1C=CC2=C(NC(C(O2)(C)C)=O)C1 | C10H10BrNO2
product | 2,2-Dimethyl-6-[7-(1-methyl-cyclohexanecarbonyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-4H-benzo[1,4]oxazin-3-one | CC1(OC2=C(NC1=O)C=C(C=C2)C=2N=C1C(=NC2)NC=C1C(=O)C1(CCCCC1)C)C | C24H26N4O3
